US08003662B2
Step C: Preparation of N-(4-fluorophenyl)-N-(5-(2-(4-(methylcarbamoyl)phenyl)thieno[3,2-b]pyridin-7-yloxy)pyridin-2-yl)cyclopropane-1,1-dicarboxamide:
A stirred mixture of 4-(7-(6-aminopyridin-3-yloxy)thieno[3,2-b]pyridin-2-yl)-N-methyl-benzamide (11 mg, 0.029 mmol) and 1-((4-fluorophenyl)carbamoyl)cyclopropanecarbonyl fluoride (9.9 mg, 0.044 mmol), in CH3CN (0.5 mL) was heated at 100° C. for 3 hours. After cooling to room temperature, the mixture was partitioned between EtOAc (5 mL) and 1:1 saturated aqueous NaHCO3/water (5 mL). The phases were separated, and the aqueous phase was re-extracted with EtOAc (2×5 mL). The combined organic phases were washed with brine (5 mL), dried (Na2SO4), filtered, and concentrated. The crude was purified by preparative TLC (0.5 mm thickness, Rf=0.30), eluting with 10% MeOH/CHCl3. The product was obtained as a beige solid (2 mg, 11%). HPLC: 100% purity (220 nm); LRMS (ESI+): 94% purity, 220 nm, m/z 582 (M+1) detected; 1H NMR (400 MHz, CDCl3) δ 9.59 (s, 1H), 9.01 (s, 1H), 8.53 (d, J=5 Hz, 1H), 8.29 (m, 2H), 7.85 (m, 5H), 7.55 (m, 3H), 7.04 (t, J=9 Hz, 2H), 6.56 (d, J=5 Hz, 1H), 6.19 (m, 1H), 3.06 (d, J=5 Hz, 3H), 1.82 (m, 2H), 1.68 (m, 2H).

reactant | 4-(7-(6-aminopyridin-3-yloxy)thieno[3,2-b]pyridin-2-yl)-N-methyl-benzamide | 0.029 mmol, 11 mg | NC1=CC=C(C=N1)OC1=C2C(=NC=C1)C=C(S2)C2=CC=C(C(=O)NC)C=C2 | C20H16N4O2S
reactant | 1-((4-fluorophenyl)carbamoyl)cyclopropanecarbonyl fluoride | 0.044 mmol, 9.9 mg | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)F | C11H9F2NO2
reactant | CH3CN | 0.5 mL | CC#N | C2H3N
product | N-(4-fluorophenyl)-N-(5-(2-(4-(methylcarbamoyl)phenyl)thieno[3,2-b]pyridin-7-yloxy)pyridin-2-yl)cyclopropane-1,1-dicarboxamide | 2 mg, 11% | FC1=CC=C(C=C1)N(C(=O)C1(CC1)C(=O)N)C1=NC=C(C=C1)OC1=C2C(=NC=C1)C=C(S2)C2=CC=C(C=C2)C(NC)=O | C31H24FN5O4S
